US07723385B2
A. N 4-[(1-Methylethyl)amino]-2-(trifluoromethyl)benzonitrile
Synthesized as described in example 1A starting with 4-fluoro-2-(trifluoromethyl)benzonitrile and isopropyl amine: MS (ES) m/z 229 (M+1).

reactant | 4-fluoro-2-(trifluoromethyl)benzonitrile | FC1=CC(=C(C#N)C=C1)C(F)(F)F | C8H3F4N
reactant | isopropyl amine | C(C)(C)N | C3H9N
product | 4-[(1-Methylethyl)amino]-2-(trifluoromethyl)benzonitrile | CC(C)NC1=CC(=C(C#N)C=C1)C(F)(F)F | C11H11F3N2
